US06555682B1
2-Bromofluorene
To a solution of fluorene (16.6 g, 0.1 mol), in propylene carbonate (125 mL), at 60° C., N-bromo succinimide (17.8 g, 0.1 mol) was added in one portion, and the mixture was allowed to cool over a period of 1 hour. The solids separated on dilution with water (2 L), were collected, dissolved in toluene (250 mL), and the toluene solution was washed with water. The solids left after concentration were recrystallized from ethanol-water, 23.3 g (95% yield), m.p. 95.6-101.3° C. Mass Spec: m/z 322, 324, 326 (M+ dibromo), 244,246 (M+).

reactant | fluorene | 0.1 mol, 16.6 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | N-bromo succinimide | 0.1 mol, 17.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | propylene carbonate | 125 mL | C1(OCC(C)O1)=O | C4H6O3
product | 2-Bromofluorene | 95% yield | BrC1=CC=2CC3=CC=CC=C3C2C=C1 | C13H9Br
